US07528160B2
(6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-benzofuran-3-yl)-acetic acid methyl ester
To a solution of 2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethanol (0.12 g, 0.43 mmol) in toluene (3 mL) at 0° C. is added ADDP (0.14 g, 0.57 mmol) followed by tri-n-butylphosphine (0.14 mL, 0.56 mmol). A toluene solution of (6-Hydroxy-benzofuran-3-yl)-acetic acid methyl ester (0.52 g, 1.22 mmol) is added, and the mixture is allowed to warm to RT overnight. Water is added, and the aqueous phase is extracted with EtOAc. The organics are dried with MgSO4 and purified by flash chromatography to yield the title compound (0.066 g, 33%).

reactant | 2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethanol | 0.43 mmol, 0.12 g | CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCO | C13H12F3NOS
reactant | ADDP | 0.57 mmol, 0.14 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | tri-n-butylphosphine | 0.56 mmol, 0.14 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (6-Hydroxy-benzofuran-3-yl)-acetic acid methyl ester | 1.22 mmol, 0.52 g | COC(CC1=COC2=C1C=CC(=C2)O)=O | C11H10O4
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | (6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-benzofuran-3-yl)-acetic acid methyl ester | 0.066 g, 33% | COC(CC1=COC2=C1C=CC(=C2)OCCC=2N=C(SC2C)C2=CC=C(C=C2)C(F)(F)F)=O | C24H20F3NO4S
